US06525051B2
To DMSO (5 mL) was added 2-(1,3-benzodioxol-5-yloxy)-6-fluoropyridine (1.3 g, 5.3 mmol), 1-(4-hydroxyphenyl)imidazole (0.92 mL, 5.8 mmol), and cesium carbonate (1.82 g, 5.6 mmol). After heating at 90° C. for 18 hour, the reaction was partitioned with water and ethyl acetate. The organic layer was washed with water and brine, dried (Na2SO4) and the solvent was removed in vacuo. The residue was chromatographed on silica with ethyl acetate/hexane to get 1.1 g of 2-(1,3-benzodioxol-5-yloxy)-6-[4-(1H-imidazol-1-yl)phenoxy]pyridine; NMR (CDCl3) δ 7.8 (s, 1H), 7.7 (t, 1H), 7.35 (d, 2H), 7.2 (m, 3H), 6.75 (d, 1H), 6.6 (m, 3H), 6.55 (m, 2H), 5.9 (s, 2H) ppm.

reactant | 2-(1,3-benzodioxol-5-yloxy)-6-fluoropyridine | 5.3 mmol, 1.3 g | O1COC2=C1C=CC(=C2)OC2=NC(=CC=C2)F | C12H8FNO3
reactant | 1-(4-hydroxyphenyl)imidazole | 5.8 mmol, 0.92 mL | OC1=CC=C(C=C1)N1C=NC=C1 | C9H8N2O
reactant | cesium carbonate | 5.6 mmol, 1.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 2-(1,3-benzodioxol-5-yloxy)-6-[4-(1H-imidazol-1-yl)phenoxy]pyridine | 1.1 g | O1COC2=C1C=CC(=C2)OC2=NC(=CC=C2)OC2=CC=C(C=C2)N2C=NC=C2 | C21H15N3O4
